US04792562
N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)-glycine ethyl ester hydrochloride
A solution of N-(1H-pyrrol-1-yl)-4-pyridinamine (5 g) in 25 ml of dimethylformamide was slowly added to a suspension of sodium hydride (60% oil dispersion, 1.4 g, washed with hexane) in 5 ml of dimethylformamide. After the anion formation, the mixture was cooled with an ice-salt bath, and a solution of ethyl chloroacetate (4.2 g) in 5 ml of dimethylformamide was slowly added. After thirty minutes, the mixture was stirred with ice water and extracted with dichloromethane. The organic extract was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated to 8 g of oil. This oil was purified by HPLC (silica, ethyl acetate) to give 4.1 g of solid, mp 92°-95°. This material was converted to the hydrochloride salt and recrystallized twice from isopropanol and once from ethanol to give 2.6 g of crystals, d 240°-241°.

reactant | N-(1H-pyrrol-1-yl)-4-pyridinamine | 5 g | N1(C=CC=C1)NC1=CC=NC=C1 | C9H9N3
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | ethyl chloroacetate | 4.2 g | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(4-Pyridinyl)-N-(1H-pyrrol-1-yl)-glycine ethyl ester hydrochloride | 4.1 g | Cl.C(C)OC(CN(N1C=CC=C1)C1=CC=NC=C1)=O | InChI=1S/C13H15N3O2.ClH/c1-2-18-13(17)11-16(15-9-3-4-10-15)12-5-7-14-8-6-12;/h3-10H,2,11H2,1H3;1H
